US07192982B2
Trifluoroacetic anhydride (0.62 mL, 4.36 mmol) and triethylamine (0.62 mL, 4.36 mmol) were added to a solution of 3-(4-benzyloxy-3-methoxy-phenyl)-3-hydroxy-2-methoxy-propionic acid methyl ester (1.01 g, 2.91 mmol) in methylene chloride (30 mL) at 0° C. The resulting mixture was stirred for 4 hours at room temperature and was concentrated under vacuum. The residue was dissolved in ethyl acetate (30 mL), and 10% palladium on carbon (0.3 g) was added to the solution. The mixture was stirred under hydrogen pressure (4 atm) for 16 hours. The mixture was filtered through Celite and concentrated under vacuum. The residue was purified by silica gel column chromatography (silica gel, hexanes/ethyl acetate 7:3) to produce 3-(4-hydroxy-3-methoxy-phenyl)-2-methoxy-propionic acid methyl ester as an oil (598 mg, 86%). 1H-NMR (200.15 MHz, CDCl3): δ 6.80 (d, 1H, J=7.8), 6.7 (s, 1H), 6.62 (d, 1H, J=7.8), 3.96 (dd, 1H, J=7.8, 4.0), 3.80 (s, 3H), 3.68 (s, 3H), 3.30 (s, 3H), 3.09 (dd, 1H, J=14.2, 4.0), 2.91 (dd, 1H, J=14.2, 7.8).

reactant | Trifluoroacetic anhydride | 4.36 mmol, 0.62 mL | FC(C(=O)OC(C(F)(F)F)=O)(F)F | C4F6O3
reactant | triethylamine | 4.36 mmol, 0.62 mL | C(C)N(CC)CC | C6H15N
reactant | 3-(4-benzyloxy-3-methoxy-phenyl)-3-hydroxy-2-methoxy-propionic acid methyl ester | 2.91 mmol, 1.01 g | COC(C(C(O)C1=CC(=C(C=C1)OCC1=CC=CC=C1)OC)OC)=O | C19H22O6
solvent | methylene chloride | 30 mL | C(Cl)Cl | CH2Cl2
product | 3-(4-hydroxy-3-methoxy-phenyl)-2-methoxy-propionic acid methyl ester | 598 mg, 86% | COC(C(CC1=CC(=C(C=C1)O)OC)OC)=O | C12H16O5
